US07423035B2
N-(2-hydroxy-5-{1-hydroxy-2-[1-(4-methoxy-benzyl)-cyclopentylamino]-ethyl}-phenyl)-methanesulphonamide
Prepared from 645 mg (1.70 mmol) N-[2-benzyloxy-5-(2-ethoxy-2-hydroxy-acetyl)-phenyl]-methanesulphonamide and 411 mg (1.70 mmol) 1-(4-methoxy-benzyl)-cyclopentylamine hydrochloride according to general method 6. Yield: 369 mg (46%, hydrochloride). Mass spectroscopy: [M+H]+=435.

reactant | N-[2-benzyloxy-5-(2-ethoxy-2-hydroxy-acetyl)-phenyl]-methanesulphonamide | 1.70 mmol, 645 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(C(O)OCC)=O)NS(=O)(=O)C | C18H21NO6S
reactant | 1-(4-methoxy-benzyl)-cyclopentylamine hydrochloride | 1.70 mmol, 411 mg | Cl.COC1=CC=C(CC2(CCCC2)N)C=C1
reactant | hydrochloride | Cl | ClH
product | N-(2-hydroxy-5-{1-hydroxy-2-[1-(4-methoxy-benzyl)-cyclopentylamino]-ethyl}-phenyl)-methanesulphonamide | OC1=C(C=C(C=C1)C(CNC1(CCCC1)CC1=CC=C(C=C1)OC)O)NS(=O)(=O)C | C22H30N2O5S
